US06576644B2
4-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-6-cyanoquinoline-3-carboxylic Acid Ethyl Ester
To 10.0 g (38.4 mmol) 4-chloro-6-cyanoquinoline-3-carboxylic acid ethyl ester was added 10.4 g (50 mmol, 1.5 eq) 3-chloro-4-methoxybenzyl amine hydrochloride and 35 mL (228 mmol, 6 eq) diisopropylethylamine (Aldrich, 99.5+%). The mixture was dispersed in 200 mL n-propanol and brought to reflux for two hours. The solution was then poured into 500 mL water. The resulting precipitate was filtered, then washed with 500 mL water, then twice washed with 50 mL absolute ethanol to yield 14.87 g (37.6 mmol, 97% yield) of the title compound as a white fiberous solid after codistilling with absolute ethanol: mp: 161-162° C.; LC/MS (M/Z) 396 [M+H] observed, 97% purity.

reactant | 4-chloro-6-cyanoquinoline-3-carboxylic acid ethyl ester | 38.4 mmol, 10.0 g | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1Cl)C#N | C13H9ClN2O2
reactant | 3-chloro-4-methoxybenzyl amine hydrochloride | 50 mmol, 10.4 g, 1.5 eq | Cl.ClC=1C=C(CN)C=CC1OC
reactant | diisopropylethylamine | 228 mmol, 35 mL, 6 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 500 mL | O | H2O
solvent | n-propanol | 200 mL | C(CC)O | C3H8O
product | 4-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-6-cyanoquinoline-3-carboxylic Acid Ethyl Ester | 37.6 mmol, 14.87 g, 97% yield | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1NCC1=CC(=C(C=C1)OC)Cl)C#N | C21H18ClN3O3
